US07524849B2
A mixture of ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate (649 mg, 1.9 mmol) and 2-pyrazinecarboxamidine hydrochloride (452 mg, 2.85 mmol) in 1.5 mL of tributylamine is stirred under nitrogen atmosphere at 160° C. for 4 h. The mixture is cooled to room temperature and the excess of tributylamine is decanted off. The residue is washed with hexanes and chromatographed over silica gel, eluting with 10% methanol in ethyl acetate. Concentration provides 6-cycloheptyl-2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidin-4-ol as a light yellow solid. MS: m/z 401.2 (M+H).

reactant | ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate | 1.9 mmol, 649 mg | C1(CCCCCC1)C(C(C(=O)OCC)C1=C(C=C(C=C1F)F)F)=O | C18H21F3O3
reactant | 2-pyrazinecarboxamidine hydrochloride | 2.85 mmol, 452 mg | Cl.N1=C(C=NC=C1)C(=N)N
solvent | tributylamine | 1.5 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | 6-cycloheptyl-2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidin-4-ol | C1(CCCCCC1)C1=C(C(=NC(=N1)C1=NC=CN=C1)O)C1=C(C=C(C=C1F)F)F | C21H19F3N4O
